US05124322
3-Trifluoromethyl-2-(4-methoxybenzylthio)-N,N-dimethyl benzylamine (D9)
A 1.6M solution of n-butyl lithium in hexane (6.6 ml, 10.5 mmol) was added slowly to a cooled solution of 3-trifluoromethyl-N,N-dimethylbenzylamine (2.03 g, 10 mmol) n dry ether (25 ml). After 2h, a solution of 4-methoxybenzyldisulphide (3.06 g, 10 mmol) in dry THF (25 ml) was added over 10 min to the dark reaction mixture. After 30 min, water was added and the aqueous layer was extracted with ether. The combined organics were extracted with 2N hydrochloric acid (3×10 ml). The acidic solution was washed with ether then was made basic with 10% sodium hydroxide and was extracted with ether. The extracts were washed with water and brine, then were dried (K2CO3) and evaporated to leave an oil. Column chromatography on silica gel (100 g). eluting with ethyl acetate gave the title compound as an oil (1.74 g, 49%).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 10.5 mmol, 6.6 ml | CCCCCC | C6H14
reactant | 3-trifluoromethyl-N,N-dimethylbenzylamine | 10 mmol, 2.03 g | FC(C=1C=C(CN(C)C)C=CC1)(F)F | C10H12F3N
reactant | 4-methoxybenzyldisulphide | 10 mmol, 3.06 g | COC1=CC=C(CSSCC2=CC=C(C=C2)OC)C=C1 | C16H18O2S2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 3-Trifluoromethyl-2-(4-methoxybenzylthio)-N,N-dimethyl benzylamine | 1.74 g, 49% | FC(C=1C(=C(CN(C)C)C=CC1)SCC1=CC=C(C=C1)OC)(F)F | C18H20F3NOS
